US04282246
5-Phenylthiothiophene-2-carboxylic Acid
Thiophenol (6.2 ml., 60 mmoles) and sodium hydride (2.5 g. of 57% in oil, 60 mmoles) were heated at 100° C. in 50 ml. of dimethylsulfoxide for 15 minutes, at which time evoluation of hydrogen was complete. 5-Bromothiophene-2-carboxylic acid (6.2 g., 30 mmoles) was added and the mixture heated for 5 hours near reflux in an oil bath maintained at 190°-192° C. The reaction was cooled to room temperature, diluted with 200 ml. of 0.5 N sodium hydroxide and extracted with 75 ml. of ether. The aqueous phase was acidified with conc. hydrochloric acid and product extracted into 100 ml. of ethyl acetate. The extract was back-washed with water, clarified by filtration and concentrated to a waxy solid (4.5 g.). The crude solids were chromatographed on 200 ml. of silica gel with hexane/5% acetic acid as eluant. Later fractions, evaporated to dryness and recrystallized from 1:1 methanol/water gave purified 5-phenylthiothiophene-2-carboxylic acid. (700 mg., m.p. 93.5°-95° C.).

reactant | Thiophenol | 60 mmoles, 6.2 ml | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydride | 60 mmoles, 2.5 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 5-Bromothiophene-2-carboxylic acid | 30 mmoles, 6.2 g | BrC1=CC=C(S1)C(=O)O | C5H3BrO2S
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 5-Phenylthiothiophene-2-carboxylic Acid | C1(=CC=CC=C1)C1=CC=C(S1)C(=S)O | C11H8OS2
